US09422292B2
Iron powder (3 g) was added to a solution of methyl 3-(benzyl(2-nitrophenyl)amino)-3-oxopropanoate (400 mg, 1.22 mmol) in EtOH (10 mL) and NH4Cl (10 mL). The reaction mixture was heated at 70° C. for 2 h. The mixture was filtered off and the filtrate was extracted by EA (50 mL), the separated organic layer was dried over Na2SO4. After the solvent was removed in vacuum, the residue was purified by combi-flash to give methyl 3-((2-aminophenyl)(benzyl)amino)-3-oxopropanoate as a yellow solid (200 mg, 55%). LRMS (M+H)+: 298 m/z.

reactant | methyl 3-(benzyl(2-nitrophenyl)amino)-3-oxopropanoate | 1.22 mmol, 400 mg | C(C1=CC=CC=C1)N(C(CC(=O)OC)=O)C1=C(C=CC=C1)[N+](=O)[O-] | C17H16N2O5
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | NH4Cl | 10 mL | [NH4+].[Cl-]
catalyst | Iron | 3 g | [Fe] | Fe
product | methyl 3-((2-aminophenyl)(benzyl)amino)-3-oxopropanoate | 200 mg, 55% | NC1=C(C=CC=C1)N(C(CC(=O)OC)=O)CC1=CC=CC=C1 | C17H18N2O3
